US04093617
5-Methyl(ethyl)-7-ethyl(methyl)pyrazolo[1,5-a]pyrimidine
The compound was prepared, as described above, from 3-aminopyrazole (8.3 g) and hexane-2,4-dione (11.4 g) in ethanol with a catalytic amount of piperidine. The product was isolated as a colorless oil (14.0 g, 87% yield) via chromatography on basic alumina with benzene. Oil, b.p. 173°-177°/0.1mm. Mass spectrum M+ = 161.

reactant | 3-aminopyrazole | 8.3 g | NC1=NNC=C1 | C3H5N3
reactant | hexane-2,4-dione | 11.4 g | CC(CC(CC)=O)=O | C6H10O2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | ethanol | C(C)O | C2H6O
product | 5-Methyl(ethyl)-7-ethyl(methyl)pyrazolo[1,5-a]pyrimidine | 14.0 g, 87% yield | CC1=NC=2N(C(=C1)CC)N=C(C2CC)C | C12H17N3
